US04013473
63 g of propylene are introduced into 244 g of 3,5-dimethylphenol and 22 g of p-toluene sulphonic acid at 120° C. Thereupon the mixture is stirred at this temperature for 3 h. The catalyst is removed by washing with sodium hydrogen carbonate solution. Then the mixture is fractionated. At boiling point 120° C (12 mm Hg) 57 g of 3,5-dimethyl-2-isopropylphenol are obtained.

reactant | propylene | 63 g | C=CC | C3H6
reactant | 3,5-dimethylphenol | 244 g | CC=1C=C(C=C(C1)C)O | C8H10O
reactant | p-toluene sulphonic acid | 22 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3,5-dimethyl-2-isopropylphenol | 57 g | CC=1C(=C(C=C(C1)C)O)C(C)C | C11H16O
